US08859535B2
4-Acetylpiperidin-2-one
A solution of N-methoxy-N-methyl-2-oxopiperidine-4-carboxamide (2.72 g, 9.79 mmol) in THF (30 ml) was immersed in an ice-bath. MeMgBr (3M) in Et2O (4.57 ml, 13.70 mmol) was added slowly and the remaining white suspension was stirred for 1 h in an ice-bath and over night at room temperature. The reaction mixture was quenched carefully with aqueous saturated NaHCO3 and extracted with DCM. The organic layers were washed with brine, combined, dried over Na2SO4, filtered and concentrated in vacuo to obtain the title compound as yellow-brown oil. The crude product was directly used in the next step.

reactant | N-methoxy-N-methyl-2-oxopiperidine-4-carboxamide | 9.79 mmol, 2.72 g | CON(C(=O)C1CC(NCC1)=O)C | C8H14N2O3
reactant | MeMgBr | 3M | C[Mg+].[Br-]
reactant | Et2O | 13.70 mmol, 4.57 ml | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-Acetylpiperidin-2-one | C(C)(=O)C1CC(NCC1)=O | C7H11NO2
